US09085583B2
To a solution of tert-butyl 4-(6-aminopyridin-2-yl)piperazine-1-carboxylate (1.9 g, 8 mmol) in N,N-dimethylformamide (20 ml) was added dropwise 1-bromopyrrolidine-2,5-dione (1.4 g, 8 mmol) at 0° C. The reaction was allowed to stirred for 4 h at rt. The reaction mixture was quenched with water (30 mL), and extracted with acetic ester (30 mL×3). The combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph silica gel (elute: petroleum ether/ethyl acetate=1:1) to give tert-butyl 4-(6-amino-5-bromopyridin-2-yl)piperazine-1-carboxylate (0.2 g, 8.2%) as a yellow solid. LCMS (M+H) m/z: calcd. 356.08. found 357.

reactant | tert-butyl 4-(6-aminopyridin-2-yl)piperazine-1-carboxylate | 8 mmol, 1.9 g | NC1=CC=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
reactant | 1-bromopyrrolidine-2,5-dione | 8 mmol, 1.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(6-amino-5-bromopyridin-2-yl)piperazine-1-carboxylate | 0.2 g, 8.2% | NC1=C(C=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)Br | C14H21BrN4O2
